US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and bis(2-methoxyethyl)amine were converted to yield {4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-bis-(2-methoxy-ethyl)-amine as colorless oil, MS: 432 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | bis(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
product | {4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-bis-(2-methoxy-ethyl)-amine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(CCOC)CCOC | C24H30FNO3S
